************************************** 
* SPICE STIMULI FILE 
* generated from 
************************************** 

VSW_ON SW_ON 0 PWL 0n 0 1000n 0 1001n 3.3 2000n 3.3 2001n 0 3001n 
+0 3002n 3.3 4001n 3.3 4002n 0 
Vvdd vdd 0 PWL 0n 3.3 
VSW_PLUS SW_PLUS 0 PWL 0n 0.5 
VVSS VSS 0 PWL 0n 0 

